US05661169
1-Bromomethyl-3,4-dimethoxybenzene
A mixture of 15.2 g of 3,4-dimethoxytoluene, 17.8 g of N-bromosuccinimide and 0.3 g of dibenzoyl peroxide in 100 ml of CCl4 is heated at reflux for hours, under illumination from a UV lamp. The precipitate is drained off and the filtrate is evaporated under vacuum. The residue is taken up in ether, washed with water, dried over Na2SO4 and evaporated under vacuum. An oil is obtained which contains a mixture of 50% of the expected product and 50% of the starting material, which mixture is used without further purification in the subsequent synthesis.

reactant | 3,4-dimethoxytoluene | 15.2 g | COC=1C=C(C=CC1OC)C | C9H12O2
reactant | N-bromosuccinimide | 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromomethyl-3,4-dimethoxybenzene | 50% | BrCC1=CC(=C(C=C1)OC)OC | C9H11BrO2
